US07655803B2
In a 250 ml Schlenk flask, 48.04 g (0.381 moles) of dimethyl sulfate was slowly added dropwise to 47.31 g (0.381 moles) of butylimidazole with ice cooling and under a blanket gas. Stirring of the mixture was continued at room temperature over night. After the addition of 62.72 g (0.482 moles; 1.26 equ.) of 1-octanol and 0.67 g of Dowex ion-exchanger washed with acetone and dried under high vacuum, the mixture was allowed to react over night at 140° C., and at the same time, the by-product methanol formed was removed from the reaction mixture by sparging with an argon stream. The remaining volatile fractions were subsequently removed under high vacuum at 80° C. The product, 1-butyl-3-methylimidazolium 1-octyl sulfate, was obtained as a viscous, slightly yellow liquid in quantitative yield. The product does not contain any detectable amounts of Cl− contamination (AgNO3 test; <3 ppm).

reactant | dimethyl sulfate | 0.381 moles, 48.04 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | butylimidazole | 0.381 moles, 47.31 g | C(CCC)C=1NC=CN1 | C7H12N2
reactant | 1-octanol | 0.482 moles, 62.72 g | C(CCCCCCC)O | C8H18O
solvent | methanol | CO | CH4O
product | 1-butyl-3-methylimidazolium 1-octyl sulfate | quantitative yield | C(CCCCCCC)OS(=O)(=O)[O-].C(CCC)[N+]1=CN(C=C1)C | InChI=1S/C8H15N2.C8H18O4S/c1-3-4-5-10-7-6-9(2)8-10;1-2-3-4-5-6-7-8-12-13(9,10)11/h6-8H,3-5H2,1-2H3;2-8H2,1H3,(H,9,10,11)/q+1;/p-1
